US04824834
The 1-chloromethyl-3-methoxy-4-phenylthiobenzene obtained above is dissolved in N,N-dimethylformamide (200 ml), and thereto is added finely divided sodium cyanide (7.34 g), and the mixture is stirred at 30° C. for 14 hours. To the reaction mixture are added saturated aqueous sodium chloride solution (300 ml) and ice water (300 ml), and the mixture is extracted with ethyl acetate (300 ml×3). The combined extracts are washed with saturated aqueous sodium chloride solution (200 ml×3) and dried over anhydrous sodium sulfate to give 1-cyanomethyl-3-methoxy-4-phenylthiobenzene. benzene.

reactant | 1-chloromethyl-3-methoxy-4-phenylthiobenzene | ClCC1=CC(=C(C=C1)SC1=CC=CC=C1)OC | C14H13ClOS
reactant | sodium cyanide | 7.34 g | [C-]#N.[Na+]
reactant | sodium chloride | 300 ml | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-cyanomethyl-3-methoxy-4-phenylthiobenzene | C(#N)CC1=CC(=C(C=C1)SC1=CC=CC=C1)OC | C15H13NOS
